US06838464B2
4-(1-Methylpiperidin-3-yloxy)nitrobenzene
Using an analogous procedure to that described in Method 18, but starting from 4-nitrophenol and 3-hydroxy-1-methylpiperidine, the product was obtained. MS (MH+): 237.

reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 3-hydroxy-1-methylpiperidine | OC1CN(CCC1)C | C6H13NO
product | 4-(1-Methylpiperidin-3-yloxy)nitrobenzene | CN1CC(CCC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O3
